US06727277B1
To a solution of 1.236 g (2.97 mmol) of 3,4-bis-(t-butyldimethylsilyloxy)-5-chlorophenyl formate in 10 mL of methanol was added 2.05 g (15.0 mmol) of potassium carbonate at 25° C. The solution was stirred for 30 min., diluted with 35 mL of water, and extracted three times with diethyl ether (50 mL each). The combined extracts were washed with brine, dried (MgSO4), and concentrated to give 1.028 g (90% yield) of 3,4-bis-(t-butyldimethylsilyloxy)-5-chlorophenol. 1H NMR (CDCl3) d 6.45 (d, J=2.8 Hz, 1H), 6.31 (d, J=2.8 Hz, 1H), 1.00 (s, 9H, t-Bu), 0.93 (s, 9H, t-Bu), 0.18 (s, 6H, Me), 0.15 (s, 6H, Me); 13C NMR (CDCl3) d 149.7 (s), 148.9 (s), 137.7 (s), 126.9 (s), 109.8 (d), 107.8 (d), 26.3 (q, 3C), 26.2 (q, 3C), −3.6 (q, 2C, Me), −3.4 (q, 2C, Me). Anal. Calcd for C18H33ClO3Si2: C, 55.57; H, 8.55. Found: C, 55.39; H, 8.87.

reactant | 3,4-bis-(t-butyldimethylsilyloxy)-5-chlorophenyl formate | 2.97 mmol, 1.236 g | C(=O)OC1=CC(=C(C(=C1)Cl)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C19H33ClO4Si2
reactant | potassium carbonate | 15.0 mmol, 2.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 35 mL | O | H2O
product | 3,4-bis-(t-butyldimethylsilyloxy)-5-chlorophenol | 1.028 g, 90% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=C(C1O[Si](C)(C)C(C)(C)C)Cl)O | C18H33ClO3Si2
